US04163801
The 2,6-bis(chloromethyl)-4-nitrophenol (8 g) and p-chlorophenol (8.7 g) were dissolved in nitrobenzene (125 ml) at 25°. After cooling to 10° ZnCl2 (28 g) was added over 1 hr. The stirred mixture was held at room temperature for 30 hrs and poured into 200 mls of water. The organic layer was washed with water and the nitrobenzene removed by vacuum distillation. Column chromatography gave 1.5 g of 2,6-bis(5-chloro-2-hydroxybenzyl)-4-nitrophenol (mp 220°).

reactant | 2,6-bis(chloromethyl)-4-nitrophenol | 8 g | ClCC1=C(C(=CC(=C1)[N+](=O)[O-])CCl)O | C8H7Cl2NO3
reactant | p-chlorophenol | 8.7 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | water | 200 mls | O | H2O
solvent | nitrobenzene | 125 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | ZnCl2 | 28 g | [Cl-].[Cl-].[Zn+2]
product | 2,6-bis(5-chloro-2-hydroxybenzyl)-4-nitrophenol | 1.5 g | ClC=1C=CC(=C(CC2=C(C(=CC(=C2)[N+](=O)[O-])CC2=C(C=CC(=C2)Cl)O)O)C1)O | C20H15Cl2NO5
